US06946463B2
4-Cyano-3-methylpyridine.
To a cooled (0° C.) round bottom flask charged with 3-picoline-N-oxide (4.53 g, 42 mmol) was added dimethylsulfate (5.8 g, 47 mmol). The mixture was stirred for 18 hours and allowed to warm to room temperature. To this mixture was added potassium cyanide (3.25 g, 50 mmol) dissolved in ethyl alcohol/water (75 mL, 1:1). The reaction was stirred at room temperature for 18 hours, concentrated to half the volume and diluted with chloroform (100 mL). The organic layer was separated and washed with sodium chloride (sat. 25 mL) and dried over Na2SO4. The solvent was removed and the residual material was chromatographed (SiO2, hexanes/ethyl acetate) to give the title compound as off-white crystals (2.01 g, 41%). 1H NMR (300 MHz, DMSO-d6): δ 2.55 (s, 3H); 7.47 (d, 1H); J=5.1 Hz); 8.60 (d, 1H, J=5.1 Hz); 8.68 (s, 1H).

reactant | 3-picoline-N-oxide | 42 mmol, 4.53 g | [N+]1(=CC(=CC=C1)C)[O-] | C6H7NO
reactant | dimethylsulfate | 47 mmol, 5.8 g | COS(=O)(=O)OC | C2H6O4S
reactant | potassium cyanide | 50 mmol, 3.25 g | [C-]#N.[K+]
solvent | ethyl alcohol water | 75 mL | C(C)O.O
product | 4-Cyano-3-methylpyridine | 2.01 g, 41% | C(#N)C1=C(C=NC=C1)C | C7H6N2
